US08222248B2
To a stirred solution of 2-(2,6-dichlorophenyl)-6,7-difluoro-3H-benzoimidazole-5-carboxylic acid methyl ester (700 mg, 1.97 mmol) in MeOH (15 mL) was added 1N NaOH (10 mL). The solution was stirred at ambient temperature overnight and carefully acidified to pH 3 with 1N HCl. The resulting suspension was filtered and washed with water. The pale yellow solid was dried under reduced pressure to give 2-(2,6-dichlorophenyl)-6,7-difluoro-3H-benzoimidazole-5-carboxylic acid.

reactant | 2-(2,6-dichlorophenyl)-6,7-difluoro-3H-benzoimidazole-5-carboxylic acid methyl ester | 1.97 mmol, 700 mg | COC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC=C2Cl)Cl)C(=C1F)F | C15H8Cl2F2N2O2
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 15 mL | CO | CH4O
product | 2-(2,6-dichlorophenyl)-6,7-difluoro-3H-benzoimidazole-5-carboxylic acid | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C(=C(C(=C2)C(=O)O)F)F | C14H6Cl2F2N2O2
